US07244756B2
5-Chloro-1-(5-chloro-2-hydroxy-phenyl)-1,3-dihydro-benzimidazole-2-one (Compound 1)
5-Chloro-1-(5-chloro-2-methoxy-phenyl)-1,3-dihydro-benzimidazol-2-one (4 g, 13 mmol) in dichloromethane was cooled to −10° C., and boron tribromide (14.6 ml 1 M solution in dichloromethane 14.6 mmol) was added. The reaction mixture is stirred at room temperature for 6 hours, poured into water (app. 200 ml), and stirred for 15 minutes and filtrated. The title compound was crystallized from toluene/heptane. M.p. 256-257° C.

reactant | 5-Chloro-1-(5-chloro-2-methoxy-phenyl)-1,3-dihydro-benzimidazol-2-one | 13 mmol, 4 g | ClC1=CC2=C(N(C(N2)=O)C2=C(C=CC(=C2)Cl)OC)C=C1 | C14H10Cl2N2O2
reactant | boron tribromide | 14.6 mmol, 1 M, 14.6 ml | B(Br)(Br)Br | BBr3
reactant | water | 200 ml | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Chloro-1-(5-chloro-2-hydroxy-phenyl)-1,3-dihydro-benzimidazole-2-one | ClC1=CC2=C(N(C(N2)=O)C2=C(C=CC(=C2)Cl)O)C=C1 | C13H8Cl2N2O2
